US04182832
1,4-Diamino-2,3-diphenylbutane
385.7 g (1.19 mols) of N,N'-diacetyl-2,3-diphenyl-1,4-diaminobutane in 715 ml of 5 N sodium hydroxide solution are heated to 200° C. in an autoclave for 16 hours. After cooling, the mixture is extracted with 1,800 ml of chloroform. Further extraction with 2 times 200 ml of chloroform and concentration of the extracts gives 285.4 g of crude product, which is recrystallised from 2.6 l of benzene. Yield: 258.5 g of 1,4-diamino-2,3-diphenylbutane; melting point: 144°-145° C. A further 15.1 g of substance having a melting point of 144°-145° C. are obtained by concentrating the mother liquor; the total yield is thus 273.6 g (95.7% of theory). For analysis, 1.0 g is recrystallised from 10 ml of benzene. Yield: 0.88 g; melting point: 144°-145° C; meso form.

reactant | N,N'-diacetyl-2,3-diphenyl-1,4-diaminobutane | 1.19 mols, 385.7 g | C(C)(=O)NCC(C(CNC(C)=O)C1=CC=CC=C1)C1=CC=CC=C1 | C20H24N2O2
solvent | sodium hydroxide | 5 N, 715 ml | [OH-].[Na+]
product | 1,4-Diamino-2,3-diphenylbutane | 285.4 g | NCC(C(CN)C1=CC=CC=C1)C1=CC=CC=C1 | C16H20N2
